US06140274
To a mixture of 1.21 g of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetaldehyde, 0.57 g of zinc dust and 10 ml of N,N-dimethylformamide was added 0.82 g of 1,1,1-trichlorotrifluoroethane. After stirring at room temperature for 1.5 hours, 0.44 g of acetic anhydride was added. The reaction mixture was stirred at room temperature for 3 hours and then filtered. The filtrate was poured into 20 ml of diluted hydrochloric acid and extracted twice with 50 ml of diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then evaporated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.21 g of (Z)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(5-(3-chloro-4,4,4-trifluoro-2-butenyloxy)pentyloxy)benzene [the integrated CF3 signal ratio of Z/E=94/6 as determined by 19F-NMR (CDCl3 /CFCl3)] (yield, 14%), nD26.5 1.5123.

reactant | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyloxyacetaldehyde | 1.21 g | ClC1=C(OCCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C16H18Cl4O4
reactant | 1,1,1-trichlorotrifluoroethane | 0.82 g | ClC(C(F)(F)F)(Cl)Cl | C2Cl3F3
reactant | acetic anhydride | 0.44 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc | 0.57 g | [Zn] | Zn
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (Z)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(5-(3-chloro-4,4,4-trifluoro-2-butenyloxy)pentyloxy)benzene | 0.21 g | ClC=1C=C(C=C(C1OCCCCCOC\C=C(\C(F)(F)F)/Cl)Cl)OCC=C(Cl)Cl | C18H18Cl5F3O3
